**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Current Sense Transformer
* Matchcode:              WE-CST 
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby      
* Date and Time:          2022-09-13
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************	
.subckt	7492540020		11  12  2  4		
.param RxLkg=5.37ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	340uH	Rser=33mohm	
K Lpri1    Lsec1        1					
.param Cprm1=5000pf					
.param Rdmp1=651.92ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
		

.subckt	7492540030		11  12  2  4		
.param RxLkg=2.96ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	765uH	Rser=93mohm	
K Lpri1    Lsec1        1					
.param Cprm1=16500pf					
.param Rdmp1=358.87ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					

.subckt	7492540040		11  12  2  4		
.param RxLkg=2.27ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	1360uH	Rser=130mohm	
K Lpri1    Lsec1        1					
.param Cprm1=28000pf					
.param Rdmp1=275.48ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
		

.subckt	7492540050		11  12  2  4		
.param RxLkg=1.71ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	2125uH	Rser=202mohm	
K Lpri1    Lsec1        1					
.param Cprm1=49500pf					
.param Rdmp1=207.19ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
	

.subckt	7492540060		11  12  2  4		
.param RxLkg=1.35ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	3060uH	Rser=305mohm	
K Lpri1    Lsec1        1					
.param Cprm1=79000pf					
.param Rdmp1=164.01ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
	

.subckt	7492540070		11  12  2  4		
.param RxLkg=1.2ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	4165uH	Rser=367mohm	
K Lpri1    Lsec1        1					
.param Cprm1=100000pf					
.param Rdmp1=145.77ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
	

.subckt	7492540100		11  12  2  4		
.param RxLkg=0.85ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	8500uH	Rser=805mohm	
K Lpri1    Lsec1        1					
.param Cprm1=200000pf					
.param Rdmp1=103.08ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					

.subckt	7492540150		11  12  2  4		
.param RxLkg=0.58ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	19125uH	Rser=1900mohm	
K Lpri1    Lsec1        1					
.param Cprm1=425000pf					
.param Rdmp1=70.71ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
	

.subckt	7492540200		11  12  2  4		
.param RxLkg=0.34ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	34000uH	Rser=2630mohm	
K Lpri1    Lsec1        1					
.param Cprm1=1250000pf					
.param Rdmp1=41.23ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					

.subckt	7492540500		11  12  2  4		
.param RxLkg=0.16ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	212500uH	Rser=21200mohm	
K Lpri1    Lsec1        1					
.param Cprm1=5580000pf					
.param Rdmp1=19.51ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
	

.subckt	7492540750		11  12  2  4		
.param RxLkg=0.1ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	478125uH	Rser=50100mohm	
K Lpri1    Lsec1        1					
.param Cprm1=14200000pf					
.param Rdmp1=12.24ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					

.subckt	7492541000		11  12  2  4		
.param RxLkg=0.08ohm					
.param Leakage=0.007uh					
Rlkg	11	11a	{RxLkg}		
L_Lkg	11	11a	{Leakage}	Rser=0.001mohm	
Lpri1	11a	12	0.843uH	Rser=0.2mohm	
Lsec1	2	4	850000uH	Rser=87640mohm	
K Lpri1    Lsec1        1					
.param Cprm1=21200000pf					
.param Rdmp1=10.01ohm					
Cpri1	11	12	{Cprm1}	Rser=10mohm	
Rdmp1	11	12	{Rdmp1}		
Rg3	11	0	20meg		
Rg7	12	0	20meg		
Rg11	2	0	20meg		
Rg19	4	0	20meg		
.ends					
